US06534665B1
Synthesis of 2,2-bis(cyclopentadienyl)-5-hydroxypentane zirconium dichloride
XPO 2407 silica, provided by Grace, (7.2 g) was placed in a 250 ml dark-coloured Schlenk flask and washed with toluene (2×200 ml). Toluene (150 ml) and a solution of 2,2-bis(cyclopentadienyl)-5-trimethylsiloxypentane zirconium dichloride (2.0 g, 0.0045 mol) in toluene (50 ml) were added and the slurry was stirred for 90 h. After this time the mixture was filtered and the solvent removed under vacuum. Affording a yellow solid (0.16 g, 9.5% yield). 1H NMR (CDCl3): Λ6.70 (C5H4, d, 4H), 5.83 (C5H4, d, 4H), 3.85 (CH2, t, 2H), 2.32 (CH2H m, 2H), 1.88 (CH2, m, 2H), 1.80 (CH3, s, 3H, 1.45 (OH, s, 1H).

reactant | 2,2-bis(cyclopentadienyl)-5-trimethylsiloxypentane zirconium dichloride | 0.0045 mol, 2.0 g | [Cl-].[Cl-].[Zr+2].C1(C=CC=C1)C(C)(CCCO[Si](C)(C)C)C1C=CC=C1
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2,2-bis(cyclopentadienyl)-5-hydroxypentane zirconium dichloride | 0.16 g, 9.5% yield | [Cl-].[Cl-].[Zr+2].C1(C=CC=C1)C(C)(CCCO)C1C=CC=C1 | InChI=1S/C15H20O.2ClH.Zr/c1-15(11-6-12-16,13-7-2-3-8-13)14-9-4-5-10-14;;;/h2-5,7-10,13-14,16H,6,11-12H2,1H3;2*1H;/q;;;+2/p-2
